US04814508
To an agitated mixture of aluminium chloride (20 g., 0.15 mole) and lithium chloride (3.18 g., 0.075 mole) and dichloroethane (20 ml) at -15° C. wash slowly added toluene (4.6 g., 0.05 mole) and acetyl chloride (3.93 g., 0.05 mole) in dichloroethane (10 ml). The reaction mixture was left at -15° C. for one hour then allowed to warm up to room temperature overnight. After working up as described in Example 1, the 4-methylacetophenone obtained (7.17 g.), had a 1H NMR estimated purity of about 95%. 1H NMR showed less than 2% ortho isomers.

reactant | aluminium chloride | 0.15 mole, 20 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | lithium chloride | 0.075 mole, 3.18 g | [Cl-].[Li+]
reactant | toluene | 0.05 mole, 4.6 g | C1(=CC=CC=C1)C | C7H8
reactant | acetyl chloride | 0.05 mole, 3.93 g | C(C)(=O)Cl | C2H3ClO
solvent | dichloroethane | 10 ml | ClC(C)Cl | C2H4Cl2
solvent | dichloroethane | 20 ml | ClC(C)Cl | C2H4Cl2
product | 4-methylacetophenone | CC1=CC=C(C=C1)C(=O)C | C9H10O
